US09102692B2
A mixture of 5-piperidin-4-yl-1-(toluene-4-sulfonyl)-1H-indole-2-carboxylic acid ethyl ester hydrochloride (253 mg, 0.592 mmol) in dichloroethane (4 ml), triethylamine (0.17 ml, 1.18 mmol), acetone (1.44 ml, 19.6 mmol), acetic acid (0.28 ml, 4.89 mmol), and sodium triacetoxyborohydride (318 mg, 1.50 mmol) was stirred at room temperature for 14.5 hours. The pH of the reaction mixture was adjusted to 9 (basic) using an aqueous solution saturated with sodium bicarbonate. The mixture was extracted with ethyl acetate. The extract was washed with an aqueous solution saturated with sodium chloride, and then dried over anhydrous sodium sulfate. The desiccant was removed by filtration, and concentration was performed. The resulting residue was purified by amino gel column chromatography (hexane/ethyl acetate=92/8 to 35/65). Thus, 5-(1-isopropyl-piperidin-4-yl)-1-(toluene-4-sulfonyl)-1H-indole-2-carboxylic acid ethyl ester was obtained as a colorless gum-like material (191 mg, 69%).

reactant | 5-piperidin-4-yl-1-(toluene-4-sulfonyl)-1H-indole-2-carboxylic acid ethyl ester hydrochloride | 0.592 mmol, 253 mg | Cl.C(C)OC(=O)C=1N(C2=CC=C(C=C2C1)C1CCNCC1)S(=O)(=O)C1=CC=C(C=C1)C
reactant | triethylamine | 1.18 mmol, 0.17 ml | C(C)N(CC)CC | C6H15N
reactant | acetone | 19.6 mmol, 1.44 ml | CC(=O)C | C3H6O
reactant | acetic acid | 4.89 mmol, 0.28 ml | C(C)(=O)O | C2H4O2
reactant | sodium triacetoxyborohydride | 1.50 mmol, 318 mg | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | dichloroethane | 4 ml | ClC(C)Cl | C2H4Cl2
product | 5-(1-isopropyl-piperidin-4-yl)-1-(toluene-4-sulfonyl)-1H-indole-2-carboxylic acid ethyl ester | C(C)OC(=O)C=1N(C2=CC=C(C=C2C1)C1CCN(CC1)C(C)C)S(=O)(=O)C1=CC=C(C=C1)C | C26H32N2O4S
